US07208140B2
b) 2,4,6-Triiodo-1,3,5-tris-(aminoethoxymethyl)benzene
24.4 g (25 mmol) of 2,4,6-triiodo-1,3,5-tris-(2-tert-butoxycarbonylaminoethoxymethyl)benzene is dissolved in 100 ml of dichloromethane, mixed at 0° C. with 100 ml of trifluoroacetic acid and stirred for 3 hours at 0° C. The batch is poured into 500 ml of diethyl ether, the solid that accumulates in this case is suctioned off and rewashed several times with diethyl ether. The residue is dissolved in 100 ml of water and 100 ml of dichloromethane while being stirred vigorously, and 32% NaOH solution is added until a pH of 10 is reached. The organic phase is separated, the aqueous phase is extracted three times with 50 ml each of dichloromethane, the combined organic phases are dried on magnesium sulfate and evaporated to the dry state.

reactant | 2,4,6-triiodo-1,3,5-tris-(2-tert-butoxycarbonylaminoethoxymethyl)benzene | 25 mmol, 24.4 g | IC1=C(C(=C(C(=C1COCCNC(=O)OC(C)(C)C)I)COCCNC(=O)OC(C)(C)C)I)COCCNC(=O)OC(C)(C)C | C30H48I3N3O9
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,4,6-Triiodo-1,3,5-tris-(aminoethoxymethyl)benzene | IC1=C(C(=C(C(=C1COCCN)I)COCCN)I)COCCN | C15H24I3N3O3
